US07491748B2
3-(4-(pyrazol-1-ylmethyl)-2-(4-benzoylpiperazin-1-yl)phenyl)propenoic acid ethyl ester
To a solution of tris(dibenzylideneacetone)dipalladium(0) (60 mg) and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl(48 mg) in dioxane (3 ml) and t-butanol (3 ml) were added cesium carbonate (598 mg), 3-(2-iodo-4-(pyrazol-1-ylmethyl)phenyl)propenoic acid (500 mg) and piperazine (226 mg) under an atmosphere of argon and the mixture was stirred at 100° C. for 5 hours. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was extracted with 1N hydrochloric acid. The aqueous layer was neutralized with 1N aqueous solution of sodium hydroxide and then extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated. The residue was dissolved in methylene chloride (2 ml) under an atmosphere of argon. To the mixture were added benzoylchloride (0.15 ml) and pyridine (0.4 ml) and the mixture was stirred at room temperature for 2 hours. To the reaction solution was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel to give the title compound (306 mg) having the following physical data.

reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 48 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | cesium carbonate | 598 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(2-iodo-4-(pyrazol-1-ylmethyl)phenyl)propenoic acid | 500 mg | IC1=C(C=CC(=C1)CN1N=CC=C1)C=CC(=O)O | C13H11IN2O2
reactant | piperazine | 226 mg | N1CCNCC1 | C4H10N2
reactant | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | t-butanol | 3 ml | C(C)(C)(C)O | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | 3-(4-(pyrazol-1-ylmethyl)-2-(4-benzoylpiperazin-1-yl)phenyl)propenoic acid ethyl ester | 306 mg | C(C)OC(C=CC1=C(C=C(C=C1)CN1N=CC=C1)N1CCN(CC1)C(C1=CC=CC=C1)=O)=O | C26H28N4O3
